US05872118
An ice cold solution of (E)-2-(4-choro-1-indanylidene)acetyl chloride (2.95 g, 0.013 mol ) in dichloromethane (30 mL) was treated with cyclopropylamine (1.48 g, 0.026 mol, Aldrich) and the mixture was stirred for 4 h. The mixture was concentrated in vacuo and the residue was taken up in a mixture of ethyl acetate and 5% aqueous sodium bicarbonate. The ethyl acetate phase was washed with 5% aqueous sodium bicarbonate, saturated aqueous NaCl and dried (Na2SO4). Filtration and concentration gave 3.5 g of crude oil product. Chromatography on Silca gel with ethyl acetate: hexanes (1:1) as eluent and trituration of the resulting solid with hexanes gave 2.46 g (76%) of (E)-2-(4-chloro-1-indanylidene)-N-cyclopropylacetamide as an off-white solid: m.p., 140°-142° C.; NMR (DMSO-d6): d 8.16, d, 1H, NH), 7.29-7.51 (m, 3H, Ar), 6.34 (t, 1H, =CH), 2.93-3.07, 3.18-3.31 (2m's, 4H 2XCH2), 2.72 (m, 1H, CH), 0.62-0.72, 0.39-0.47 (2m's, 4H, 2XCH2); steady-state nOe: irradiation at 6.34 d, observed 20.3% nOe at 7.46 d.

reactant | (E)-2-(4-choro-1-indanylidene)acetyl chloride | 0.013 mol, 2.95 g | ClC1=C2CC/C(/C2=CC=C1)=C\C(=O)Cl | C11H8Cl2O
reactant | cyclopropylamine | 0.026 mol, 1.48 g | C1(CC1)N | C3H7N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (E)-2-(4-chloro-1-indanylidene)-N-cyclopropylacetamide | 2.46 g, 76% | ClC1=C2CC/C(/C2=CC=C1)=C\C(=O)NC1CC1 | C14H14ClNO
